US08193164B2
Step EA1: 2,6-Dichloro-9-[(1R,4S)-4-(5-ethyl-tetrazol-2-yl)-cyclopent-2-enyl]-9H-purine
The title compound is prepared analogously to di-Boc-[(1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl]-amine (AA3) by replacing di-t-butyliminodicarboxylate with 5-ethyltetrazole. MS (ES+) m/e 351.2 (MH+)

reactant | di-Boc-[(1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl]-amine | C(=O)(OC(C)(C)C)N([C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)C(=O)OC(C)(C)C | C20H25Cl2N5O4
reactant | 5-ethyltetrazole | C(C)C1=NN=NN1 | C3H6N4
product | 2,6-Dichloro-9-[(1R,4S)-4-(5-ethyl-tetrazol-2-yl)-cyclopent-2-enyl]-9H-purine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N1N=C(N=N1)CC)Cl | C13H12Cl2N8
